US04400202
N(m-ISOCYANATOPHENYL)2,2-DIMETHYLSUCCINIMIDE (INTERMEDIATE)
Seventy-three g. of N-m-aminophenyl-2,2-dimethylsuccinimide, as prepared in Example II, was dissolved in 800 ml. of tetrahydrofuran containing 75 g. of triethylamine, cooled in an ice bath, and added to 60 g. of phosgene in 400 ml. of tetrahydrofuran maintained at about 0° C. in a drying and isopropanol bath. The mixture was allowed to warm to room temperature and the triethylamine hydrochloride was filtered off and the tetrahydrofuran removed under vacuum on the rotary evaporator. Yield was 84 g. of material product having a nD30 of 1.5470. The product was identified as the title compound by analysis of infrared spectra and was used without further purification.

reactant | N-m-aminophenyl-2,2-dimethylsuccinimide | NC=1C=C(C=CC1)N1C(C(CC1=O)(C)C)=O | C12H14N2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 g | O1CCCC1 | C4H8O
product | N(m-ISOCYANATOPHENYL)2,2-DIMETHYLSUCCINIMIDE | N(=C=O)C=1C=C(C=CC1)N1C(C(CC1=O)(C)C)=O | C13H12N2O3
